US07087599B2
A solution of 2-butyl-5-methoxy-4-methyl-1-indanone (100 mg, 0.43 mmol) in tetrahydrofuran (0.43 mL) was treated with ethyl vinyl ketone (EVK, 0.064 mL, 0.646 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 0.013 mL, 0.086 mmol). The resulting solution was stirred under a nitrogen atmosphere and heated in an oil bath at 60° C. After 24 hour, more EVK (0.064 mL) and DBU (0.013 mL) were added and the solution was heated an additional 24 hours at 60° C. The reaction mixture was diluted with EtOAc (10 mL) and washed with water (10 mL) containing 2N HCl (1 mL). The organic phase was washed with brine (5 mL), dried over MgSO4, filtered, and evaporated under vacuum to provide crude 2-butyl-5-methoxy-4-methyl-2-(3-oxopentyl)-1-indanone.

reactant | 2-butyl-5-methoxy-4-methyl-1-indanone | 0.43 mmol, 100 mg | C(CCC)C1C(C2=CC=C(C(=C2C1)C)OC)=O | C15H20O2
reactant | ethyl vinyl ketone | 0.646 mmol, 0.064 mL | C(=C)C(=O)CC | C5H8O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.086 mmol, 0.013 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | EVK | 0.064 mL | C(=C)C(=O)CC | C5H8O
reactant | DBU | 0.013 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 0.43 mL | O1CCCC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 2-butyl-5-methoxy-4-methyl-2-(3-oxopentyl)-1-indanone | C(CCC)C1(C(C2=CC=C(C(=C2C1)C)OC)=O)CCC(CC)=O | C20H28O3
